US04045476
2,2-Dimethyl-5-oxoheptenoic acid methyl ester
A solution of n-butyllithium in hexane (224 ml; 2.2M) was added to tetrahydrofuran (THF, 300 ml) at -60° followed by diiospropylamine (52 g) and this mixture was then warmed to room temperature stirred for 5 min and then cooled to -72° C. Methylisobutyrate (50 g) was then slowly added and the mixture was stirred for 11/2 hr at -70° C. Freshly distilled ethyl vinyl ketone (42 g) in THF (60 ml) was added to the above mixture over 10 min and the mixture was then stirred for a further one half hr at -60° C and subsequently at room temperature for 2 hr.

reactant | n-butyllithium | C(CCC)[Li]
reactant | Methylisobutyrate | 50 g | COC(C(C)C)=O | C5H10O2
reactant | ethyl vinyl ketone | 42 g | C(=C)C(=O)CC | C5H8O
solvent | hexane | 224 ml | CCCCCC | C6H14
solvent | THF | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2,2-Dimethyl-5-oxoheptenoic acid methyl ester | COC(C(C=CC(CC)=O)(C)C)=O | C10H16O3
